US08012956B2
To a solution of tert-butylamine (1.6 mL, 15 mmol) in dichloromethane (100 mL) at −78° C. was added drop-wise over 30 minutes a solution of bromine (773 μl, 15 mmol in 15 mL of dichloromethane). The solution was stirred at −78° C. for 30 minutes. While maintaining the temperature at −78° C., a solution of methyl 3-hydroxy-2-methylbenzoate (2.5 g, 15 mmol in 15 mL of dichloromethane) was added to the reaction mixture drop-wise over 30 minutes. The mixture was allowed to warm to room temperature and was stirred for 15 hours. The mixture was washed with 20% aqueous citric acid then brine and dried over anhydrous sodium sulfate. Filtration and concentration afforded a brown residue that was purified by silica gel column chromatography. Eluting with 10% diethyl ether in hexane, purified fractions were pooled and concentrated to afford 612 mg, 2.5 mmol (17%) of methyl 4-bromo-3-hydroxy-2-methylbenzoate as a colorless oil. 1H NMR (400 MHz, CDCl3): 7.37-7.29 (m, 2H), 5.71 (s, 1H), 3.81 (s, 3H), 2.53 (s, 3H). MS (EI) for C9H9BrO3: 245 (MH+).

reactant | tert-butylamine | 15 mmol, 1.6 mL | C(C)(C)(C)N | C4H11N
reactant | bromine | 15 mmol, 773 μl | BrBr | Br2
reactant | methyl 3-hydroxy-2-methylbenzoate | 15 mmol, 15 mL, 2.5 g | OC=1C(=C(C(=O)OC)C=CC1)C | C9H10O3
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | methyl 4-bromo-3-hydroxy-2-methylbenzoate | 2.5 mmol, 612 mg, 17% | BrC1=C(C(=C(C(=O)OC)C=C1)C)O | C9H9BrO3
